US09255074B2
Alternative Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (Compound (A-1))
A 600-mL, stainless steel, Parr® reactor was equipped with an overhead stirrer, thermocouple and a heating mantle. Tris(dibenzylideneacetone)dipalladium(0) (0.164 g, 0.179 mmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine (0.208 g, 0.429 mmol) and milled potassium phosphate tribasic (8.36 g, 39.4 mmol) were charged to the 600-mL reactor. The reactor was purged with argon for not less than 90 minutes. 2-Methyltetrahydrofuran (100 mL) was purged with argon for not less than 30 minutes and was transferred to the 600-mL reactor using a cannula under argon atmosphere. The reactor was tightly sealed, the contents were heated to 80° C. and stirred at this temperature for 30 minutes. A 500-mL round bottom flask equipped with a magnetic stir bar was charged with 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (25 g, 35.8 mmol), methanesulfonamide (4.09 g, 42.9 mmol) and ethyl acetate (200 mL), purged with argon for not less than 30 minutes with stirring and heated to 60° C. A clear solution was observed. This solution was transferred to the 600-mL reactor using a cannula under argon atmosphere. The reactor was tightly sealed, the contents were heated to 90° C. and stirred at this temperature for 14 hours. The reaction mixture was cooled to 35° C., solids were collected by filtration, washed with ethyl acetate (300 mL) and dried under high vacuum for 2-4 hours. The solids were then transferred to a 1-L, three-neck, round-bottom flask equipped with an overhead stirrer and a thermocouple. N-Acetyl-L-cysteine (0.58 g, 3.5 mmol), dimethylformamide (DMF) (100 mL) and glacial acetic acid (0.85 g) were charged to the 1-L flask; the contents were heated to 60° C. and mixed for 1 hour. The mixture was filtered through approximately 2-inch pad of diatomaceous earth and washed with DMF (50 mL). The dark-brown/black-colored solid collected on diatomaceous earth was discarded and the light yellow/clear filtrate was charged to a separate 1-L, three-neck, round-bottom flask equipped with an overhead stirrer, a thermocouple and a syringe pump. The DMF solution was mixed and methanol (300 mL) was added over 8 hours, while maintaining the internal temperature at 25±5° C. The white solid was collected by filtration washed with methanol (150 mL) and dried in a vacuum oven at 50° C. for not less than 8 hours. The title compound was isolated as a white solid (15.8 g, 89% yield).

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine | 0.429 mmol, 0.208 g | C(C)(C)(C)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C31H49O2P
reactant | potassium phosphate tribasic | 39.4 mmol, 8.36 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 35.8 mmol, 25 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C29H23F9N2O6S
reactant | methanesulfonamide | 42.9 mmol, 4.09 g | CS(=O)(=O)N | CH5NO2S
reactant | N-Acetyl-L-cysteine | 3.5 mmol, 0.58 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.179 mmol, 0.164 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | acetic acid | 0.85 g | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
